US08685977B2
5-chloro-2,4-difluoro-N-(methylsulfonyl)benzamide
5-chloro-2,4-difluorobenzoic acid (0.291 g, 1.511 mmol), N-Ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.438 g, 2.285 mmol) and 4-dimethylaminopyridine (0.420 g, 3.438 mmol) were suspended in DCM (5 mL). Methanesulfonamide (0.222 g, 2.334 mmol) was added and the mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with DCM (10 mL) and washed with aqueous HCl solution (2 M, 2×15 mL). The organic layer was dried with a phase separating cartridge and concentrated in vacuo to yield the title compound as a white solid (0.388 g):

reactant | 5-chloro-2,4-difluorobenzoic acid | 1.511 mmol, 0.291 g | ClC=1C(=CC(=C(C(=O)O)C1)F)F | C7H3ClF2O2
reactant | N-Ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.285 mmol, 0.438 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Methanesulfonamide | 2.334 mmol, 0.222 g | CS(=O)(=O)N | CH5NO2S
catalyst | 4-dimethylaminopyridine | 3.438 mmol, 0.420 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-2,4-difluoro-N-(methylsulfonyl)benzamide | 0.388 g | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)F | C8H6ClF2NO3S
